US07964658B2
Preparation of di-n-pentyl terephthalate
A 2-liter multineck flask with distillation bridge and reflux divider, 20 cm packed column, stirrer, dip tube, dropping funnel, and thermometer was charged with 679 g (3.5 mol) of dimethyl terephthalate (Oxxynova), 1.7 g of tetrabutyl orthotitanate (0.25% by mass based on DMT, DuPont, Tyzor TnBT) and, to start with, 200 g out of a total of 748 g (8.5 mol) of n-pentanol (>99% purity, FLUKA), and this initial charge was heated slowly until the DMT forms a homogeneous mixture with the alcohol, at which point the stirrer was switched on. The reflux divider was set so that the overhead temperature remained at a constant level of approximately 65° C. (the boiling point of methanol). From a liquid-phase temperature of approximately 185° C., the remaining alcohol was slowly run in at a rate such that the temperature in the flask did not fall below 180° C. and a reflux sufficient for the distillation was maintained. The distillate removed was analyzed by GC for the amount of methanol separated off. After a major fraction of the methanol (approximately 90% of the anticipated 7 mol of methanol) had been taken off, a sample was taken from the reaction flask every 30 minutes and analyzed by GC. Transesterification was at an end when the amount of dimethyl ester and mixed ester(methyl pentyl) in total had dropped below 0.3% by mass (approximately 8 to 9 hours).

reactant | dimethyl terephthalate | 3.5 mol, 679 g | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | n-pentanol | 8.5 mol, 748 g | C(CCCC)O | C5H12O
catalyst | tetrabutyl orthotitanate | 1.7 g | CCCCO.CCCCO.CCCCO.CCCCO.[Ti]
solvent | methanol | CO | CH4O
solvent | methanol | 7 mol | CO | CH4O
product | di-n-pentyl terephthalate | C(C1=CC=C(C(=O)OCCCCC)C=C1)(=O)OCCCCC | C18H26O4
